US06392047B1
50 mmol of 2-chloropyridine are refluxed together with 50 mmol of 2-pyridylboronic acid glycol ester, 25 mmol of lithium chloride, 50 mmol of potassium hydroxide, 1 mmol of tetrabutylammonium chloride and 0.05 mmol of trans-di-μ-acetato-bis[2-[bis(1,1-dimethylethyl)phosphino]-2-methylpropyl-C,P]dipalladium (0.2 mol %) in (0.2 mol %) in 150 ml of tetrahydrofuran for 5 hours. Customary aqueous work-up and crystallization of the crude product from ethanol gives 2,2′-bipyridyl as colorless crystals (m.p. 70° C.) in a yield of 91%.

reactant | 2-chloropyridine | 50 mmol | ClC1=NC=CC=C1 | C5H4ClN
reactant | lithium chloride | 25 mmol | [Cl-].[Li+]
reactant | potassium hydroxide | 50 mmol | [OH-].[K+]
catalyst | tetrabutylammonium chloride | 1 mmol | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,2′-bipyridyl | yield of 91% | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
